US07645785B2
Di-tert-butyl dicarbonate (1.36 g, 6.21 mmol, 1.1 equiv.) was added to a stirred solution of 4,5-dichloro-benzene-1,2-diamine (1.00 g, 5.65 mmol, 1.0 equiv.) in tetrahydrofuran (10 mL) and N,N-diisopropylethylamine (0.81 g, 6.21 mmol, 1.1 equiv.) at 0° C. and the reaction mixture was stirred for 16 hours and allowed to warm to room temperature. The reaction mixture was evaporated in-vacuo and the crude product dry-loaded onto SiO2 and purified by column chromatography (SiO2, ethyl acetate:n-heptane 1:9 to 1:2) to afford (2-amino-4,5-dichloro-phenyl)-carbamic acid tert-butyl ester, 0.81 g (52%) as an off-white solid. MS (ES+): 221, 277 (M-tert-butyl, M+H).

reactant | Di-tert-butyl dicarbonate | 6.21 mmol, 1.36 g, 1.1 equiv. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4,5-dichloro-benzene-1,2-diamine | 5.65 mmol, 1.00 g, 1.0 equiv. | ClC=1C=C(C(=CC1Cl)N)N | C6H6Cl2N2
reactant | N,N-diisopropylethylamine | 6.21 mmol, 0.81 g, 1.1 equiv. | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (2-amino-4,5-dichloro-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)Cl)Cl)N)=O | C11H14Cl2N2O2
